US08604062B2
Step b) (E)- and/or (Z)—N-Hydroxy-3-chloro-benzenecarboximidoyl chloride
To a solution of (E)- and/or (Z)-3-chloro-benzaldehyde oxime (54 g, 347 mmol) in DMF (800 mL) was added HCl (conc., 17 mL) and the mixture cooled to room temperature. Then potassium monopersulfate triple salt (247 g, 400 mmol) and the reaction mixture was stirred at room temperature for 1 h. The mixture was then poured onto ice-water, and extracted with ethyl acetate. The combined organic layers were then washed with water and brine, dried over sodium sulfate and evaporated to afford the title compound (66 g, 100%) which was obtained as a white solid. Mp: 58-60° C.

reactant | (Z)-3-chloro-benzaldehyde oxime | 347 mmol, 54 g | ClC=1C=C(\C=N/O)C=CC1 | C7H6ClNO
reactant | HCl | 17 mL | Cl | ClH
reactant | potassium monopersulfate triple salt | 400 mmol, 247 g | OS(=O)(=O)[O-].OS(=O)(=O)O[O-].OS(=O)(=O)O[O-].[O-]S(=O)(=O)[O-].[K+].[K+].[K+].[K+].[K+]
solvent | DMF | 800 mL | CN(C)C=O | C3H7NO
product | (Z)—N-Hydroxy-3-chloro-benzenecarboximidoyl chloride | 66 g, 100% | O\N=C(\C1=CC(=CC=C1)Cl)/Cl | C7H5Cl2NO
